US03998834
A mixture of 53 parts of methyl 4-[(4-fluorophenyl)amino]-1-(phenylmethyl)-4-piperidinecarboxylate and 400 parts of methanol is hydrogenated at normal pressure and at room temperature with 10 parts of palladium-charcoal catalyst 10%. After the calculated amount of hydrogen is taken up, the catalyst is filtered off and the filtrate is evaporated. The residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and 15% of methanol, previously saturated with gaseous ammonia, as eluent. The pure fractions are collected and the eluent is evaporated. The oily residue solidifies on scratching in hexane. The product is filtered off and dried, yielding methyl 4-[(4-fluorophenyl)amino]-4-piperidinecarboxylate; mp. 83.7° C.

reactant | methyl 4-[(4-fluorophenyl)amino]-1-(phenylmethyl)-4-piperidinecarboxylate | FC1=CC=C(C=C1)NC1(CCN(CC1)CC1=CC=CC=C1)C(=O)OC | C20H23FN2O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium-charcoal | [Pd] | Pd
solvent | methanol | CO | CH4O
product | methyl 4-[(4-fluorophenyl)amino]-4-piperidinecarboxylate | FC1=CC=C(C=C1)NC1(CCNCC1)C(=O)OC | C13H17FN2O2
